Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],0.888060477697
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],2.4047225074400003
[C:5][H:6].[O:1]=[C:2]([H:3])[C:4][O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][H:8],-7.750956118110001
[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.15543507841
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13],4.79553495449
[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.1477300699300015
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.76390275098
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][C:4]#[C:5][H:6],4.42358075872
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.87372370884
[C:8]=[C:9]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12],-6.80797125584
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],4.57714559071
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.1569471916500005
[C:1]#[C:2][O:3][C:4](=[O:5])[H:6]>>[C:1]#[C:2][O:3][C:4][H:6].[O:5],7.89423642264
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]=[C:8]1[H:9],-0.044738299960000005
[C:1][C@@:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11]>>[C:1].[C:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11],4.1173516641
[H:1][O:2][C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:4](=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3],1.70847137771
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2],5.24202651749
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-4.59204455398
[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1]>>[H:1][C:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-3.67679374143
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6][O:7][H:8],4.81553453481
[C:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:12].[C:3]([H:5])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.33208942479
[H:1][C:2][O:3][C:4]#[C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.60134375297
[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8][C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11],-2.21202133395
[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][H:9].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-1.62137419387
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.69077177479
[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])[H:9].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-2.7555171815
[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.99134357385
[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.27630430134100004
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.22725557755
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:8],4.5537804391800005
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1],7.65873596548
